US05665719
Methyl 4-oxo-3-piperidinecarboxylate hydrochloride (3.5 g, 18.1 mmol) was stirred in methylene chloride (30 mL) and treated is with di-t-butyl dicarbonate (3.6 g, 16.5 mmol) followed by triethylamine added dropwise to maintain the pH of the mixture (moistened E. Merck colorpHast sticks) in the range 7-8. The mixture was stirred at ambient temperature for 18 h, then washed with 1N HCl followed by saturated aqueous sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo to give methyl 1-Boc-4-oxo-3-piperidinecarboxylate.

reactant | Methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 18.1 mmol, 3.5 g | Cl.O=C1C(CNCC1)C(=O)OC
reactant | di-t-butyl dicarbonate | 16.5 mmol, 3.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | methyl 1-Boc-4-oxo-3-piperidinecarboxylate | C(=O)(OC(C)(C)C)N1CC(C(CC1)=O)C(=O)OC | C12H19NO5
